US07365069B2
4-Fluoro-N-[4-(methylthio)phenyl]benzenecarboximidamide
The title compound was prepared from 4-fluorobenzonitrile (2.176 g, 17.98 mmol) and 4-methylthioaniline (2.5 g, 17.98 mmol) by following the procedure described in preparation 1, (2.06 g, 44.1%, purity 98.8% by HPLC), mp 121-124° C. 1H-NMR (CDCl3):δ 2.48 (s, 3H), 4.82 (bs, 2H, D2O exchangeable), 6.91-6.93 (d, 2H), 7.1-7.14 (m, 2H), 7.26-7.30 (m, 2H), 7.86 (bs, 2H). MS m/z:261.1(M+)

reactant | 4-fluorobenzonitrile | 17.98 mmol, 2.176 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 4-methylthioaniline | 17.98 mmol, 2.5 g | CSC1=CC=C(N)C=C1 | C7H9NS
product | 4-Fluoro-N-[4-(methylthio)phenyl]benzenecarboximidamide | FC1=CC=C(C=C1)C(NC1=CC=C(C=C1)SC)=N | C14H13FN2S
